US08080552B2
1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea
180 mg (1.11 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 179 mg (1.01 mmol) 3-trifluoromethoxyaniline in 4.0 ml dichloromethane and stirred for 12 h. A solution of 263 mg (1.01 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6.0 ml dichloromethane was added within 30 min. and the mixture stirred for 12 h at r.t. The reaction mixture was filtered, the filtrate evaporated and the residue purified by chromatography on silica gel (dichloromethane/methanol 95:5). The obtained material was washed with dichloromethane, the precipitate was isolated by filtration and dried. Yield: 160 mg (34%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.11 mmol, 180 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-trifluoromethoxyaniline | 1.01 mmol, 179 mg | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.01 mmol, 263 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6.0 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea | OCCCNC1=NC=CC(=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C21H20F3N5O4
